Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest heaviness and parasthesias
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH significant for recent left breast infection and 
hypertension who presented to the ED today c/o ___ days of 
intermittent Sub-Sternal chest heaviness, associated with L-arm 
heaviness. She also c/o L>R arm paresthesias worse in AMs. She 
was concerned enough to come to the ED after taking 650mg ASA. 
On further questioning she thinks she had diminished sensation 
on the left side of her face at intermittent points. None of her 
symptoms have been constant, and all peaked yesterday. She 
thinks her chest heaviness may have been relieved by tums at one 
point.  
.  
In the ED initial vitals were 97.0 68 142/126 17 100% RA. She 
was initially in ___ pain, and she received SL nitro. It is 
unclear if this treated her pain, however it did lead to a 
precipitous drop in blood pressure, which resolved with IVF. The 
ED initially intended to obs her for 2 sets and a stress, 
however she was admitted because there are no stress tests 
tomorrow.  
.  
She was noted in th ED to have a thoroughly normal neuro exam 
including a negative Phalen test. Coming in because there are no 
stresses. Dropped pressures to nitro responded to IVF. Currently 
pain free.  
.  
On the floor she is symptom free, and states she would not have 
come in if she hadnt had the arm heaviness.  
.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 

 
Past Medical History:
HTN  
Left Breast abcess s/p u/s guided drainage and treatment with 
ciprofloxacin  
Intermittent Migraines  

 
Social History:
___
Family History:
Brother with a stroke at ___  
another Brother with a stroke at ___  
No h/o misscarriages or family h/o misscariages, DVT's, or blood 
clots. 3 2nd degree relatives with breast CA  

 
Physical Exam:
Vitals: T: 97.9 BP:R. Arm 119/75 L. Arm 125/80 P:64-65 
R:unlabored O2: 100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. NO reproducible tenderness, no obvious sequela from 
earlier cystitis.  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses (equal bilaterally), no 
clubbing, cyanosis or edema  
Neuro: PERRL, EOMI, facial sensation is equal throughout, SCM 
and shrug are ___ bilaterally, no nasal labial flattening, 
TONGUE DEVIATES RIGHTWARD. ___ strength x 4, LLE and LUE 
sensation are currently intact.  

 
Pertinent Results:
Admission labs ___:

WBC-4.9# RBC-4.49 Hgb-13.6 Hct-37.7 MCV-84 MCH-30.2 MCHC-36.0* 
RDW-14.0 Plt ___
Neuts-39.9* Lymphs-53.0* Monos-4.1 Eos-1.5 Baso-1.5
___ PTT-27.7 ___
Glucose-115* UreaN-13 Creat-0.8 Na-141 K-3.3 Cl-106 HCO3-27 
AnGap-11
cTropnT-<0.01

Discharge labs ___:

WBC-4.0 RBC-4.16* Hgb-12.8 Hct-35.7* MCV-86 MCH-30.8 MCHC-35.8* 
RDW-14.0 Plt ___
Glucose-98 UreaN-10 Creat-0.7 Na-140 K-3.8 Cl-108 HCO3-26 
AnGap-10
CK-MB-2 cTropnT-<0.01
Calcium-9.0 Phos-2.9 Mg-2.0

No microbiology

MRI Brain ___:
1. No acute infarction. 
2. Partially empty/near total empty sella with thin rim of 
pituitary. 
3. Hypointense marrow, likely within normal limits/related to 
anemia, 
myeloproliferative or infiltrative disease. Correlate clinically 
and with 
hematology labs. 
4. Tiny focal prominence in the region of the anterior 
communicating artery may relate to its confluence with the right 
anterior cerebral artery; MRA can be considered for better 
assessment on a non-emergent basis.  

 
Brief Hospital Course:
This is a relatively healthy ___ year old female for several days 
of intermittent substernal chest pain and paraesthesias.  
  
Left sided diminished sensation with associated right sided 
facial changes: Given her family history of early 
atherosclerotic diseases, TIA was considered although her 
symptoms were not completely consistent with this.  A brain MRI 
was done which ruled out acute injury but showed a partially 
empty sella.  This should be followed up by her PCP.  The 
etiology of her paraesthesias is unclear but could possibly 
related to cervical disease, however this would not explain her 
facial symptoms.   
  
Chest heaviness: She ruled out for ACS with negative enzymes and 
normal EKGs.  Her risk factors include family history and 
hypertension, and she is low risk.  She was ordered for an 
outpatient exercise stress test and given the number to call and 
schedule this test as the office was closed on day of discharge. 
 Her pain may be related to musculoskeletal etiology, her breast 
disease or reflux.  She reported mild relief from Tums so she 
was discharged on a trial of Zantac BID.  
 
Hypertension: Her dyazide was continued.

 
Medications on Admission:
Dyazide 1 cap daily  
vitamin D,  
iron,  
multivitamin.  

 
Discharge Medications:
1. Zantac 150 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
2. triamterene-hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Cap PO DAILY (Daily).  
3. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest heaviness
Paraesthesias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with chest heaviness and 
numbness in your face and arm.  Your heart enzymes were checked 
for signs of damage and were normal.  You had a MRI of your 
brain that did not show any signs of a stroke.

You should have a stress test done to ensure your heart is 
functioning normally.  We have ordered this for you but you will 
need to call as directed below to schedule this test.  Please 
follow-up with your PCP to discuss the results.

You were started on Zantac to control heartburn.  Please take 
this medication twice a day.  No other changes were made to your 
medicine.
 
Followup Instructions:
___